US07449467B2
tert-Butyl [(1R,3S)-3-Isopropyl-3-(4-[6-(trifluoromethyl)pyrimidin-4-yl]piperazin-1-ylcarbonyl)cyclopentyl]carbamate
A solution of 4-piperazin-1-yl-6-(trifluoromethyl)pyrimidine (1.0 g, 4.31 mmol), (1S,3R)-3-[(tert-butoxycarbonyl)amino]-1-isopropylcyclopentanecarboxylic acid (1.75 g, 6.46 mmol), benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (2.86 g, 6.46 mmol), and triethylamine (1.20 mL, 8.61 mmol) in methylene chloride (10 mL) was stirred at room temperature overnight. The reaction mixture was diluted with methylene chloride, washed with brine, dried with sodium sulfate, filtered, and concentrated in vacuo. The crude residue was purified by flash column chromatography to yield the desired product (800 mg, 38.3%). LCMS calculated for C23H35F3N5O3: (M+1) 486.2; found 486.2.

reactant | 4-piperazin-1-yl-6-(trifluoromethyl)pyrimidine | 4.31 mmol, 1.0 g | N1(CCNCC1)C1=NC=NC(=C1)C(F)(F)F | C9H11F3N4
reactant | (1S,3R)-3-[(tert-butoxycarbonyl)amino]-1-isopropylcyclopentanecarboxylic acid | 6.46 mmol, 1.75 g | C(C)(C)(C)OC(=O)N[C@H]1C[C@](CC1)(C(=O)O)C(C)C | C14H25NO4
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 6.46 mmol, 2.86 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 8.61 mmol, 1.20 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl [(1R,3S)-3-Isopropyl-3-(4-[6-(trifluoromethyl)pyrimidin-4-yl]piperazin-1-ylcarbonyl)cyclopentyl]carbamate | 800 mg, 38.3% | C(C)(C)[C@]1(C[C@@H](CC1)NC(OC(C)(C)C)=O)C(=O)N1CCN(CC1)C1=NC=NC(=C1)C(F)(F)F | C23H34F3N5O3
